US07259158B2
(6-Hydroxy-naphthalen-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone
The title compound was synthesised from 6-hydroxy-2-naphtoic acid (commercially available) and N-isopropyl-piperazine (commercially available) according to the procedure described for Example A. MS (m/e): 299.3 (MH+, 100%)

reactant | 6-hydroxy-2-naphtoic acid | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | N-isopropyl-piperazine | C(C)(C)N1CCNCC1 | C7H16N2
product | (6-Hydroxy-naphthalen-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone | OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCN(CC1)C(C)C | C18H22N2O2
